US08648087B2
Step A: Preparation of 6-bromothieno[2,3-d]pyrimidin-4-ol:
To a solution of thieno[2,3-d]pyrimidin-4-ol (3.0 g, 20 mmol) in glacial acetic acid (40 mL) was added bromine (6.3 g, 39 mmol). After heating to 80° C. for 1.5 hours, the reaction mixture was cooled to room temperature and poured into saturated NaHCO3 and ice. The solid was filtered, washed with water and dried to provide the product.

reactant | thieno[2,3-d]pyrimidin-4-ol | 20 mmol, 3.0 g | N1=CN=C(C2=C1SC=C2)O | C6H4N2OS
reactant | bromine | 39 mmol, 6.3 g | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 6-bromothieno[2,3-d]pyrimidin-4-ol | BrC1=CC2=C(N=CN=C2O)S1 | C6H3BrN2OS
